US07229999B2
6-Butoxy-5-(2-fluoro-5-trifluoromethyl-phenyl)-N-((1R,2R)-2-hydroxy-cyclohexyl)-nicotinamide
6-Butoxy-5-(2-fluoro-5-trifluoromethyl-phenyl)-nicotinic acid (0.10 g, 0.3 mmol) was dissolved in DMF (5 mL). To the solution was added TBTU (0.10 g, 0.3 mmol), N,N-diisopropylethyl amine (0.24 mL, 1.4 mmol) and (1R,2R)-2-amino-cyclohexanol (47 mg, 0.3 mmol). The reaction mixture was stirred for 18 h at room temperature. The solvent was evaporated in vacuo and the residue was purified by column chromatography on silica (n-heptane/ethyl acetate gradient) to yield 78 mg of the title compound as a light yellow solid, mp 172–178° C., MS (ISP) 455.3 (M+H)+.

reactant | 6-Butoxy-5-(2-fluoro-5-trifluoromethyl-phenyl)-nicotinic acid | 0.3 mmol, 0.10 g | C(CCC)OC1=NC=C(C(=O)O)C=C1C1=C(C=CC(=C1)C(F)(F)F)F | C17H15F4NO3
reactant | TBTU | 0.3 mmol, 0.10 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N,N-diisopropylethyl amine | 1.4 mmol, 0.24 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (1R,2R)-2-amino-cyclohexanol | 0.3 mmol, 47 mg | N[C@H]1[C@@H](CCCC1)O | C6H13NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 6-Butoxy-5-(2-fluoro-5-trifluoromethyl-phenyl)-N-((1R,2R)-2-hydroxy-cyclohexyl)-nicotinamide | 78 mg | C(CCC)OC1=NC=C(C(=O)N[C@H]2[C@@H](CCCC2)O)C=C1C1=C(C=CC(=C1)C(F)(F)F)F | C23H26F4N2O3
